US07230098B2
To a mixture of 6′-amino-5′-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-[3,3′]bipyridinyl-6-ol (78 mg, 0.20 mmol), triphenyphosphine (63 mg, 0.24 mmol) and 2-morpholin-4-yl-ethanol (0.026 mL, 0.22 mmol) was added DEAD (0.034 mL, 0.22 mmol). After stirring overnight more PPh3 (63 mg, 0.24 mmol) and more DEAD (0.034 mL, 0.22 mmol) were added. After several hours, more alcohol (0.026 mL, 0.22 mmol) was added. After several more hours, more PPh3 (63 mg, 0.24 mmol) and more DEAD (0.034 mL, 0.22 mmol) were added. After stirring overnight, the mixture was partitioned between dichloromethane and half-saturated brine. The phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried over Na2SO4 and concentrated by rotary evaporation. The residue was purified by silica gel chromatography using gradient elution of dichloromethane, methanol to afford 5-[1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-6′-(2-morpholin-4-yl-ethoxy)-[3,3′]bipyridinyl-6-ylamine (53 mg, 53%).

reactant | 6′-amino-5′-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-[3,3′]bipyridinyl-6-ol | 0.20 mmol, 78 mg | NC1=C(C=C(C=N1)C=1C=NC(=CC1)O)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C18H14Cl2FN3O2
reactant | triphenyphosphine | 0.24 mmol, 63 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-morpholin-4-yl-ethanol | 0.22 mmol, 0.026 mL | N1(CCOCC1)CCO | C6H13NO2
reactant | DEAD | 0.22 mmol, 0.034 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | PPh3 | 0.24 mmol, 63 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.22 mmol, 0.034 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | PPh3 | 0.24 mmol, 63 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.22 mmol, 0.034 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 5-[1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-6′-(2-morpholin-4-yl-ethoxy)-[3,3′]bipyridinyl-6-ylamine | 53 mg, 53% | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C=C(C=NC1N)C=1C=NC(=CC1)OCCN1CCOCC1 | C24H25Cl2FN4O3
